.subckt DLYRAMP_CS_100N RST RAMP VDD GND
* Standard diode-stack cascode mirror -> RAMP (recommended: flat I over PVT).
Iref n2 GND 100n
Xin    n1   n1 VDD VDD PMOS50 W=0.8768254u L=2u M=1
Xincs  n2   n2 n1  VDD PMOS50 W=0.8768254u L=2u M=1
Xout   n3   n1 VDD VDD PMOS50 W=0.8768254u L=2u M=1
Xoutcs RAMP n2 n3  VDD PMOS50 W=0.8768254u L=2u M=1
* --- ramp capacitor: PDK MIM, ~1 pF ---
Xcap RAMP GND CMIM_STD L=31.623u W=31.623u
* --- reset switch across the cap; gate = buffered RST (active-high) ---
Xrst RAMP nrstb GND GND NMOS50 W=100u L=0.5u M=1
Xbuf RST nrstb VDD GND BUF_5V0
.ends DLYRAMP_CS_100N
